US06245761B1
Preparation of 5-[2-fluoro-5-bromobenzyloxy]pentyl chloride
In a 50 ml flask, under a nitrogen atmosphere, 2-fluoro-5-bromobenzyl alcohol (2.139 g, 10.4 mmol) was dissolved in N,N-dimethylformamide (25 ml). To this solution sodium hydride (60%, 625 mg, 15.6 mmol) was added and the resulting mixture was stirred for twenty minutes. To the reaction mixture 5-chloropentyl bromide was added and the resulting mixture was stirred for two hours at ambient temperature. The progress of the reaction was monitored by thin layer chromatography. Sodium iodide (3.127 g, 20.9 mmol) was added and the resulting mixture was stirred at ambient temperature for three hours. The reaction mixture was diluted with diethyl ether and washed seven times with brine. The solvents were removed in vacuo. The title intermediate was further purified by silica gel.

reactant | 2-fluoro-5-bromobenzyl alcohol | 10.4 mmol, 2.139 g | FC1=C(CO)C=C(C=C1)Br | C7H6BrFO
reactant | sodium hydride | 15.6 mmol, 625 mg | [H-].[Na+]
reactant | 5-chloropentyl bromide | ClCCCCCBr | C5H10BrCl
reactant | Sodium iodide | 20.9 mmol, 3.127 g | [I-].[Na+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-[2-fluoro-5-bromobenzyloxy]pentyl chloride | FC1=C(COCCCCCCl)C=C(C=C1)Br | C12H15BrClFO
